US08563723B2
4-Hydroxymethyl-benzenesulfonamide
To a solution of 5.2 g 4-sulfamoyl-benzoic acid methyl ester in 100 mL THF and 1.44 mL MeOH, 0.77 g lithium borohydride was added portion-wise over a period of 10 minutes. The mixture was heated at reflux overnight, cooled to room temperature, and poured onto ice containing 100 mL 1N HCl. The mixture was extracted with EtOAc, and the organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by automated flash chromatography (EtOAc/Hexane 1:1) to give 0.75 gram (17%) of product. 1H NMR (400 MHz, DMSO-d6) δ 4.57 (d, J=5.81 Hz, 1H), 5.38 (t, J=5.81 Hz, 1H), 7.48 (d, J=8.34 Hz, 2H), 7.78 (d, J=8.34 Hz, 2H).

reactant | 4-sulfamoyl-benzoic acid methyl ester | 5.2 g | COC(C1=CC=C(C=C1)S(N)(=O)=O)=O | C8H9NO4S
reactant | lithium borohydride | 0.77 g | [BH4-].[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.44 mL | CO | CH4O
product | 4-Hydroxymethyl-benzenesulfonamide | 0.75 gram, 17% | OCC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
